US07595397B2
2-Benzyl-4-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-morpholine
The above compound could be made in the following manner: 1 eq. of 2-Benzyl-4-(4-bromo-benzyl)-morpholine could be combined with 1.5 eq. of 2-(Trifluoromethyl)phenyl boronic acid, 10 mol % of tetrakis(triphenylphosphine)palladium(0), 6.7 eq. of 2M sodium carbonate solution, toluene and ethanol. The reaction mixture could be heated in a sealed tube at 120° C. overnight in an oil bath. The reaction mixture could be filtered through Celite and concentrated in vacuo. The residue could be diluted with water and extracted with ethyl acetate. The combined organic phases could be washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude material could be purified by flash chromatography to afford product.

reactant | 2-Benzyl-4-(4-bromo-benzyl)-morpholine | 1 eq. | C(C1=CC=CC=C1)C1CN(CCO1)CC1=CC=C(C=C1)Br | C18H20BrNO
reactant | 2-(Trifluoromethyl)phenyl boronic acid | 1.5 eq. | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2M, 6.7 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | C(C)O | C2H6O
product | 2-Benzyl-4-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-morpholine | C(C1=CC=CC=C1)C1CN(CCO1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C25H24F3NO
